US09079866B2
4′-(5-Aminopyrazin-2-yl)-N-cyclohexyl-3′-fluorobiphenyl-2-sulfonamide
To a 5 mL microwave vial were added a stirbar, 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine (54 mg, 0.17 mmol), 2-bromo-N-cyclohexylbenzenesulfonamide (58 mg, 0.18 mmol), Pd(dppf)Cl2.CH2Cl2 (10 mg, 0.013 mmol), and K2CO3 (80 mg, 0.58 mmol). The vial was capped and flushed with nitrogen before adding 1 mL N2 sparged DMSO and heating at 80° Celsius for 20 hours. The vial was cooled to rt and the reaction mixture subjected to FCC purification to give the title compound (45 mg, 62%). MS (ESI): mass calcd. for C22H23FN4O2S, 426.15; m/z found, 427.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.43-8.35 (m, 1H), 8.05-8.03 (d, J=1.4, 1H), 8.03-7.99 (dd, J=7.9, 1.4, 1H), 7.92-7.84 (m, 1H), 7.70-7.64 (m, 1H), 7.64-7.58 (m, 1H), 7.44-7.37 (m, 2H), 7.32-7.24 (m, 2H), 6.72 (s, 2H), 2.85-2.72 (m, 1H), 1.69-1.52 (m, 5H), 1.48-1.39 (m, 1H), 1.19-0.93 (m, 5H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | 0.17 mmol, 54 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-cyclohexylbenzenesulfonamide | 0.18 mmol, 58 mg | BrC1=C(C=CC=C1)S(=O)(=O)NC1CCCCC1 | C12H16BrNO2S
reactant | CH2Cl2 | 0.013 mmol, 10 mg | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 0.58 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-(5-Aminopyrazin-2-yl)-N-cyclohexyl-3′-fluorobiphenyl-2-sulfonamide | 45 mg, 62% | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC1CCCCC1)F | C22H23FN4O2S
